US09260425B2
A microwave reaction vials was charged with 5-bromo-3-(1H-pyrazol-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine as an off-white solid (153.7 mg 0.44 mmol), 3-Pyridylboronic acid (81.62 mg, 0.66 mmol), 1,1′-Bis(diphenylphosphino)ferrocenepalladium (II) chloride (36.15 mg, 0.044 mmol), 1.00 M of Potassium acetate in Water (0.66 mL, 0.66 mmol), 1.00 M of Sodium carbonate in Water (0.66 mL, 0.66 mmol), and Acetonitrile (3 mL). The reaction mixture was heated under microwave at 130° C. for 20 minutes The mixture was concentrated and the residue was purified on silica eluted with 0 to 7% MeOH in DCM with 1% NH4OH to afford 3-(1H-pyrazol-3-yl)-5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine (73.4 mg, 48%).

reactant | 5-bromo-3-(1H-pyrazol-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | BrC=1C=C2C(=CN1)N(N=C2C2=NNC=C2)C2OCCCC2 | C14H14BrN5O
reactant | 3-Pyridylboronic acid | 0.66 mmol, 81.62 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | Potassium acetate | 1.00 M | C(C)(=O)[O-].[K+]
reactant | Water | 0.66 mmol, 0.66 mL | O | H2O
reactant | Water | 0.66 mmol, 0.66 mL | O | H2O
solvent | Sodium carbonate | 1.00 M | C([O-])([O-])=O.[Na+].[Na+]
catalyst | 1,1′-Bis(diphenylphosphino)ferrocenepalladium (II) chloride | 0.044 mmol, 36.15 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | Acetonitrile | 3 mL | C(C)#N | C2H3N
product | 3-(1H-pyrazol-3-yl)-5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | 73.4 mg, 48% | N1N=C(C=C1)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)C2OCCCC2 | C19H18N6O
